US05656627
4-Methoxybenzoxazole (65b).
To a suspension of 4-hydroxybenzoxazole (2.00 g, 14.8 mmol) (Musser et al., J. Med. Chem., 30, pp. 62-67 (1987)) in acetone (80.0 ml) was added dried K2CO3 (2.25 g, 16.3 mmol) followed by iodomethane (1.38 ml, 22.2 mmol). The reaction was heated under reflux under N2 for 4.5 h, then filtered and reduced in vacuo to afford the crude product. The resulting residue was purified by flash chromatography (25:75 ethyl acetate/hexane) to give 2.0 g (91%) of the title compound as a white crystalline solid: m.p. 72°-74° C.; IR (KBr) 3089, 1619, 1610, 1503, 1496, 1322, 1275, 1090, 1071, 780, 741; 1H NMR (CDCl3) δ 8.02 (1H, s), 7.32 (1H, t, J=8.0), 7.18 (1H, d, J=8.0), 6.81 (1H, d, J=8.0), 4.04 (3H, s). Anal. Calcd. for C8H7NO2 : C, 64.42; H, 4.73; N, 9.39. Found: C, 64.40; H, 4.84; N, 9.31; m/z (EI) 149 (M+ +1, 100%).

reactant | 4-hydroxybenzoxazole | 14.8 mmol, 2.00 g | OC1=CC=CC2=C1N=CO2 | C7H5NO2
reactant | K2CO3 | 16.3 mmol, 2.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 22.2 mmol, 1.38 ml | IC | CH3I
solvent | acetone | 80.0 ml | CC(=O)C | C3H6O
product | 4-Methoxybenzoxazole | 2.0 g, 91% | COC1=CC=CC2=C1N=CO2 | C8H7NO2
